US05128448
Following the procedure described in Example 45, 6.4 g of cyclopentane propionyl chloride and 7.1 g of (S)-4-phenylmethyl-2-oxazolidinone yielded 11.6 g of (S)-3-[3-cyclopentyl-1-oxopropyl]-4-(phenylmethyl)-2-oxazolidinone. [α]D25 =+99.61°

reactant | cyclopentane propionyl chloride | 6.4 g | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | (S)-4-phenylmethyl-2-oxazolidinone | 7.1 g | C1(=CC=CC=C1)C[C@@H]1NC(OC1)=O | C10H11NO2
product | (S)-3-[3-cyclopentyl-1-oxopropyl]-4-(phenylmethyl)-2-oxazolidinone | 11.6 g | C1(CCCC1)CCC(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C18H23NO3
